US08106033B2
To a solution of methyl(E)-2-(5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxyphenylamino)propanoate (0.1 mol) in ethanol (200 mL), was added sodium hydroxide (20% aqueous solution, 200 mL). The resulting mixture was heated at reflux for 2.5 h. The reaction was monitored by TLC. When the reaction was complete, the volatiles were removed under vacuum and the resulting residue was acidified to pH 4 by addition of acetic acid. A solid precipitate formed. The precipitate was separated by filtration. The filtered solid was recrystallized twice from acetone to provide the desired (E)-2-(5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxyphenylamino)propanoic acid. m.p. 176-180° C.

reactant | methyl(E)-2-(5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxyphenylamino)propanoate | 0.1 mol | COC1=C(/C=C/S(=O)(=O)CC=2C=CC(=C(C2)NC(C(=O)OC)C)OC)C(=CC(=C1)OC)OC | C23H29NO8S
reactant | sodium hydroxide | 200 mL | [OH-].[Na+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | (E)-2-(5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxyphenylamino)propanoic acid | COC1=C(/C=C/S(=O)(=O)CC=2C=CC(=C(C2)NC(C(=O)O)C)OC)C(=CC(=C1)OC)OC | C22H27NO8S
